US07723332B2
In an analogous manner to General Procedure A, 4-Bromo-2-trifluoromethylbenzenesulfonyl chloride (0.50 g, 1.54 mmol) and methylamine (10 mL, 33% in ethanol) were stirred in sealed tube for 16 hours. 4-bromo-N-methyl-2 (trifluoromethyl)benzenesulfonamide (0.44 g, 90%) was provided after purification. MS (ESI) m/z 318. HPLC purity 100.0% at 210-370 nm, 8.5 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-Bromo-2-trifluoromethylbenzenesulfonyl chloride | 1.54 mmol, 0.50 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3BrClF3O2S
reactant | methylamine | 10 mL | CN | CH5N
product | 4-bromo-N-methyl-2 (trifluoromethyl)benzenesulfonamide | 0.44 g, 90% | BrC1=CC(=C(C=C1)S(=O)(=O)NC)C(F)(F)F | C8H7BrF3NO2S
